US05418226
To a stirred solution of 40 g of (2β,3α,5α,16β)-3-hydroxy-2,16-di-(1-piperidinyl)-androstan-17-one in 160 ml of dichloromethane were added 13.5 ml of acetylchloride at 15°-20 ° C. The solution was stirred for 6 h at room temperature and thereafter evaporated to dryness. The residue was dissolved in toluene, the solution again evaporated to dryness and the residue dissolved in dichloromethane. The solution was washed with saturated aqueous sodium carbonate solution, with water and with saturated brine, dried over sodium sulphate, and evaporated to dryness to give 43.5 g of (2β,3α,5α,16β)-3-acetyloxy-2,16-di-(1-piperidinyl)androstan-17-one. Mp 154° C.

reactant | (2β,3α,5α,16β)-3-hydroxy-2,16-di-(1-piperidinyl)-androstan-17-one | 40 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)=O)N1CCCCC1 | C29H48N2O2
reactant | acetylchloride | 13.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | (2β,3α,5α,16β)-3-acetyloxy-2,16-di-(1-piperidinyl)androstan-17-one | 43.5 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)=O)N1CCCCC1 | C31H50N2O3
